US05852017
6-(1-Pyrrolyl)-7-nitro-2,3(1H,4H)-quinoxalinedione
23.2 mmol of 6-amino-7-nitro-2,3(1H,4H)-quinoxalinedione were reacted with 23.2 mmol of 2,5-dimethoxytetrahydrofuran by the method of Example 5d.

reactant | 6-amino-7-nitro-2,3(1H,4H)-quinoxalinedione | 23.2 mmol | NC=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C8H6N4O4
reactant | 2,5-dimethoxytetrahydrofuran | 23.2 mmol | COC1OC(CC1)OC | C6H12O3
product | 6-(1-Pyrrolyl)-7-nitro-2,3(1H,4H)-quinoxalinedione | N1(C=CC=C1)C=1C=C2NC(C(NC2=CC1[N+](=O)[O-])=O)=O | C12H8N4O4
